US06242443B1
7-Bromo-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
To a suspension of 2-amino-5-bromobenzenesulfonamide (0.8 g; 3.2 mmol) and potassium carbonate (0.54 g; 3.9 mmol) in acetone (20 ml) was added isopropyl isothiocyanate (0.387 g; 3.84 mmol). The mixture was heated to 60° C. and after 16 hr cooled, concentrated in vacuo and the crude residue was taken up in tetrahydrofuran (50 ml) and cooled to 0° C. To the cooled mixture was added triethylamine (0.648 g; 6.4 mmol) followed by the addition of phosgene in toluene 1.9M (1.82 ml) over 2 min. After 1 hr at 0° C. the mixture was concentrated in vacuo. The crude product was taken up in water (10 ml) and pH was adjusted to 6 with sodium bicarbonate. The precipitated product was collected by filtration and dried in vacuo at 50° C. for 16 hr giving 390 mg (38.3%) of the title compound; m.p. >220° C.

reactant | 2-amino-5-bromobenzenesulfonamide | 3.2 mmol, 0.8 g | NC1=C(C=C(C=C1)Br)S(=O)(=O)N | C6H7BrN2O2S
reactant | potassium carbonate | 3.9 mmol, 0.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl isothiocyanate | 3.84 mmol, 0.387 g | C(C)(C)N=C=S | C4H7NS
reactant | triethylamine | 6.4 mmol, 0.648 g | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | toluene | 1.9M, 1.82 ml | C1(=CC=CC=C1)C | C7H8
product | 7-Bromo-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | 390 mg, 38.3% | BrC1=CC2=C(NC(=NS2(=O)=O)NC(C)C)C=C1 | C10H12BrN3O2S
